US05051422
4-(2,6-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinemethanamine
In a manner similar to Preparation 2, react 4-(2,6-dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinecarboxamide with lithium aluminium hydride to obtain the title compound.

reactant | 4-(2,6-dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinecarboxamide | ClC1=C(C(=CC=C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)C(=O)NCC=C | C23H27Cl2N3O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(2,6-Dichlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(2-propenyl)-2-piperazinemethanamine | ClC1=C(C(=CC=C1)Cl)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CNCC=C | C23H29Cl2N3O2
